US07202363B2
N-{4-[4-amino-7-(3-hydroxypropyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide
N-(4-{4-Amino-7-[(1E)-3-hydroxyprop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (110 mg, 0.228 mmol), methanol (2 mL) and N, N-dimethylforamide (2 mL) was added sodium borohydride (26.9 mg, 0.684 mmol) under an atmosphere of nitrogen. Mixture stirred for 30 minutes at room temperature after which it was treated with 1M sodium carbonate (5 mL) and extracted with dichloromethane (3×5 mL). The organic layer was separated, dried over magnesium sulfate, and filtered, and the solvent was removed under reduced pressure. The product was purified via flash chromatography to furnish the title compound as a pale yellow powder (21.1 mg, 0.0434 mmol): LCMS (Thermoquest AQA single-quad MS, Genesis C18 column, 3 mm particle size, 33×4.6 mm; 70% 50 mM ammonium Acetate in Water to 95% Acetonitrile over 4.5 min, 0.8 mL/min): MH+=487 RT=3.23 minutes; 1H NMR (DMSO-d6, 400 MHz) δ 9.51 (1H), 7.99 (1H), 7.70 (2H), 7.60 (1H), 7.55 (1H), 7.32–7.35 (2H), 7.21 (1H), 7.15 (1H), 7.07 (1H), 5.34 (2H), 4.04 (3H), 3.91 (3H), 3.47 (2H), 2.75 (2H), 1.83 (4H).

reactant | N-(4-{4-Amino-7-[(1E)-3-hydroxyprop-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.228 mmol, 110 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\CO | C27H24N4O3S
reactant | methanol | 2 mL | CO | CH4O
reactant | sodium borohydride | 0.684 mmol, 26.9 mg | [BH4-].[Na+]
reactant | sodium carbonate | 1M, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | N, N-dimethylforamide | 2 mL | CN(C=O)C | C3H7NO
product | N-{4-[4-amino-7-(3-hydroxypropyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide | 0.0434 mmol, 21.1 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)CCCO | C27H26N4O3S
